US05324747
A solution of 1.01 g (1.37 mmol) of N-(2-methoxy-2-oxoethyl)-N-[3-[3-[4-(methylsulfonyl) phenoxy]propoxy]-5-(octadecyloxy)-phenyl]glycine methyl ester and 0.92 ml (5.5 mmol) of 6 N NaOH in 30 ml of methanol was stirred at reflux for 4 hours under argon. The methanol was removed at reduced pressure, the residue was acidified and the product was extracted with ethyl acetate. The dried extract was concentrated to a solid which was recrystallized from methylene chloride-ether to give 0.835 g (86% yield, mp 118°-120°) of N-(carboxymethyl)-N-[3-[3-[4-(methylsulfonyl)phenoxy]propoxy]-5-(octadecyloxy)phenyl]glycine.

reactant | N-(2-methoxy-2-oxoethyl)-N-[3-[3-[4-(methylsulfonyl) phenoxy]propoxy]-5-(octadecyloxy)-phenyl]glycine methyl ester | 1.37 mmol, 1.01 g | COC(CN(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCCCOC1=CC=C(C=C1)S(=O)(=O)C)CC(=O)OC)=O | C40H63NO9S
reactant | NaOH | 5.5 mmol, 6 N, 0.92 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | N-(carboxymethyl)-N-[3-[3-[4-(methylsulfonyl)phenoxy]propoxy]-5-(octadecyloxy)phenyl]glycine | 0.835 g, 86% yield | C(=O)(O)CN(CC(=O)O)C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCCCOC1=CC=C(C=C1)S(=O)(=O)C | C38H59NO9S
